US08222248B2
A solution of 3-(4-formyl-3,5-dimethylphenyl)-acrylic acid tert-butyl ester (210 mg) in CH2Cl2 (8 mL) was hydrogenated at 1 atm over 10% Pd/C (21 mg) for 4 h. The catalyst was filtered and the filtrate concentrated to give 3-(4-formyl-3,5-dimethylphenyl)-propionic acid tert-butyl ester as a yellow solid. MS (ESI)m/z 286 (M+H).

reactant | 3-(4-formyl-3,5-dimethylphenyl)-acrylic acid tert-butyl ester | 210 mg | C(C)(C)(C)OC(C=CC1=CC(=C(C(=C1)C)C=O)C)=O | C16H20O3
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | 21 mg | [Pd] | Pd
product | 3-(4-formyl-3,5-dimethylphenyl)-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCC1=CC(=C(C(=C1)C)C=O)C)=O | C16H22O3
